US06818642B2
1. (5-Chloro-2,6-dimethylpyrimidin-4-yl)[4-(3-nitroimidazo[1,2-b]pyridazin-6-yloxy)benzyl]amine
8.0 g (30 mmol) of 4-[(5-chloro-2,6-dimethylpyrimidin-4-ylamino)methyl]phenol, 6.0 g (30 mmol) of 6-chloro-3-nitroimidazo[1,2-b]pyridazine and 20.7 g (150 mmol) of potassium carbonate in 150 ml of anhydrous dimethylformamide are heated at 80° C. with vigorous stirring for 1 h. After cooling to room temperature, the mixture is poured into water (1 l) and extracted with ethyl acetate (3×500 ml). The combined organic extracts are washed with water (500 ml), dried over sodium sulfate and concentrated. The beige solid (12.5 g) remaining is purified by chromatography on silica gel (mobile phase: toluene/acetone=2:1). The fractions with Rf=0.4 are collected and concentrated. The residue is suspended in 100 ml of methanol and the suspension is stirred for 30 min. Following filtration, this operation is repeated. After drying in a vacuum drying cabinet at 40° C., 7.8 g (61%) of the title compound are isolated as an almost white powder. m.p.: 203° C.

reactant | 4-[(5-chloro-2,6-dimethylpyrimidin-4-ylamino)methyl]phenol | 30 mmol, 8.0 g | ClC=1C(=NC(=NC1C)C)NCC1=CC=C(C=C1)O | C13H14ClN3O
reactant | 6-chloro-3-nitroimidazo[1,2-b]pyridazine | 30 mmol, 6.0 g | ClC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C6H3ClN4O2
reactant | potassium carbonate | 150 mmol, 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 l | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | (5-Chloro-2,6-dimethylpyrimidin-4-yl)[4-(3-nitroimidazo[1,2-b]pyridazin-6-yloxy)benzyl]amine | 7.8 g, 61% | ClC=1C(=NC(=NC1C)C)NCC1=CC=C(C=C1)OC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C19H16ClN7O3
